US05466687
4-[4-(2-Oxazolin-2-yl) benzylidene]-1-(4-pentynoyl)piperidine
356 mg (2.2 mmol) of N,N'-carbonyldiimidazole in 3 ml of tetrahydrofuran are added to 200 mg (2 mmol) of 4-pentynoic acid in 2 ml of tetrahydrofuran at ambient temperature. The mixture is stirred at 40° C. for 1 hour. 363 mg (1.5 mmol) of 4-[4-(2-oxazolin-2-yl)benzylidene]piperidine are then added and the mixture is stirred at 40° C. for a further 2 hours. The reaction solution is then evaporated down and the residue is purified by column chromatography (Silica gel; ethyl acetate). 320 mg (66% of theory) of the title compound of melting point 118° C. are obtained.

reactant | 4-pentynoic acid | 2 mmol, 200 mg | C(CCC#C)(=O)O | C5H6O2
reactant | 4-[4-(2-oxazolin-2-yl)benzylidene]piperidine | 1.5 mmol, 363 mg | O1C(=NCC1)C1=CC=C(C=C2CCNCC2)C=C1 | C15H18N2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-[4-(2-Oxazolin-2-yl) benzylidene]-1-(4-pentynoyl)piperidine | O1C(=NCC1)C1=CC=C(C=C2CCN(CC2)C(CCC#C)=O)C=C1 | C20H22N2O2
